### PR TITLE
[Merged by Bors] - feat(Algebra/Order/Ring/Unbundled/Basic): add a generalization of `two_mul_le_add_of_sq_eq_mul`

### PR DESCRIPTION
**Pull request by mortarsanjaya**
The equality `r^2 = a * b` in the hypothesis can be weakened to `r^2 ≤ a * b`.

The implementation requires adding an appropriate `ZeroLEOneClass` instance.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by mortarsanjaya** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/60a81a9dee87f8d9aeb3a79fa00b3008ca4e4afd?reference=185383820340d9929ea650ecb2a53f4ed4d79344) for 60a81a9dee87f8d9aeb3a79fa00b3008ca4e4afd against 185383820340d9929ea650ecb2a53f4ed4d79344 are in. No significant results found. @mortarsanjaya

- 🟥 `build//instructions`: **+26.6G** (**+0.02%**)

**Small changes (4🟥)**

- 🟥 `build/module/Mathlib.Analysis.Convex.Birkhoff//instructions`: **+2.0G** (**+6.73%**)
- 🟥 `build/module/Mathlib.Analysis.Convex.Segment//instructions`: **+1.0G** (**+1.98%**)
- 🟥 `build/module/Mathlib.CategoryTheory.Limits.FunctorCategory.Shapes.Pullbacks//instructions`: **+378.1M** (**+2.78%**)
- 🟥 `build/module/Mathlib.Topology.EMetricSpace.PairReduction//instructions`: **+558.2M** (**+1.46%**)

**Comment by mortarsanjaya** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/9ffd4d50f5803fc96c8602bd76ba9b51817aedc8?reference=185383820340d9929ea650ecb2a53f4ed4d79344) for 9ffd4d50f5803fc96c8602bd76ba9b51817aedc8 against 185383820340d9929ea650ecb2a53f4ed4d79344 are in. No significant results found. @mortarsanjaya

- ✅ `build//instructions`: **-8.0G** (**-0.00%**)

**Small changes (1🟥)**

- 🟥 `build/module/Mathlib.CategoryTheory.Limits.FunctorCategory.Shapes.Pullbacks//instructions`: **+399.0M** (**+2.93%**)

File: Mathlib/Algebra/Order/Ring/Unbundled/Basic.lean [hunk 1]
```diff
@@ -779,13 +782,23 @@ alias four_mul_le_pow_two_add := four_mul_le_sq_add
...
   apply nonneg_le_nonneg_of_sq_le_sq (Left.add_nonneg ha hb)
-  conv_rhs => rw [← pow_two]
-  convert four_mul_le_sq_add a b using 1
-  rw [mul_mul_mul_comm, two_mul, two_add_two_eq_four, ← pow_two, ht, mul_assoc]
+  calc (2 * r) * (2 * r)
+    _ = 4 * r ^ 2 := by rw [mul_mul_mul_comm, pow_two, two_mul, two_add_two_eq_four]
+    _ ≤ 4 * (a * b) := mul_le_mul_of_nonneg_left ht zero_le_four
+    _ = 4 * a * b := (mul_assoc 4 a b).symm
+    _ ≤ (a + b) ^ 2 := four_mul_le_sq_add a b
+    _ = (a + b) * (a + b) := pow_two (a + b)
```
Comment (themathqueen) [inline Mathlib/Algebra/Order/Ring/Unbundled/Basic.lean]: no need for `calc`:

```suggestion
  rw [mul_mul_mul_comm, ← pow_two r, two_mul, two_add_two_eq_four]
  grw [mul_le_mul_of_nonneg_left ht zero_le_four, ← mul_assoc, four_mul_le_sq_add a b, sq]
```

File: Mathlib/Algebra/Order/Ring/Unbundled/Basic.lean [hunk 2]
```diff
@@ -779,13 +782,19 @@ alias four_mul_le_pow_two_add := four_mul_le_sq_add
...
   apply nonneg_le_nonneg_of_sq_le_sq (Left.add_nonneg ha hb)
-  conv_rhs => rw [← pow_two]
-  convert four_mul_le_sq_add a b using 1
-  rw [mul_mul_mul_comm, two_mul, two_add_two_eq_four, ← pow_two, ht, mul_assoc]
+  rw [mul_mul_mul_comm, ← pow_two r, two_mul, two_add_two_eq_four]
+  grw [mul_le_mul_of_nonneg_left ht zero_le_four, ← mul_assoc, four_mul_le_sq_add a b, sq]
+
+/-- Binary and division-free **arithmetic mean-geometric mean inequality**
+(aka AM-GM inequality) for linearly ordered commutative semirings. -/
+lemma two_mul_le_add_of_sq_eq_mul [ExistsAddOfLE R] [MulPosStrictMono R] [PosMulStrictMono R]
```
Comment (themathqueen) [inline Mathlib/Algebra/Order/Ring/Unbundled/Basic.lean:794]: I would probably deprecate this.
```suggestion
@[deprecated two_mul_le_add_of_sq_le_mul (since := "2026-04-20")]
lemma two_mul_le_add_of_sq_eq_mul [ExistsAddOfLE R] [MulPosStrictMono R] [PosMulStrictMono R]
```

Comment (mortarsanjaya) [reply Mathlib/Algebra/Order/Ring/Unbundled/Basic.lean:794]: I wasn't too sure about that, though the user can just use `eq_of_le` to obtain `two_mul_le_add_of_sq_eq_mul`. I added this change; thanks.

File: Mathlib/Algebra/Order/Ring/Unbundled/Basic.lean [hunk 3]
```diff
@@ -779,13 +782,20 @@ alias four_mul_le_pow_two_add := four_mul_le_sq_add
...
+    (ha : 0 ≤ a) (hb : 0 ≤ b) (ht : r ^ 2 ≤ a * b) : 2 * r ≤ a + b := by
   apply nonneg_le_nonneg_of_sq_le_sq (Left.add_nonneg ha hb)
-  conv_rhs => rw [← pow_two]
-  convert four_mul_le_sq_add a b using 1
-  rw [mul_mul_mul_comm, two_mul, two_add_two_eq_four, ← pow_two, ht, mul_assoc]
+  rw [mul_mul_mul_comm, ← pow_two r, two_mul, two_add_two_eq_four]
+  grw [mul_le_mul_of_nonneg_left ht zero_le_four, ← mul_assoc, four_mul_le_sq_add a b, sq]
+
+/-- Binary and division-free **arithmetic mean-geometric mean inequality**
+(aka AM-GM inequality) for linearly ordered commutative semirings. -/
```
Comment (themathqueen) [inline Mathlib/Algebra/Order/Ring/Unbundled/Basic.lean]: I don't think there's a need for the docstring now that it's deprecated
```suggestion
```

File: Mathlib/Algebra/Order/Ring/Unbundled/Basic.lean [hunk 4]
```diff
@@ -711,6 +711,9 @@ alias pow_two_nonneg := sq_nonneg
 lemma mul_self_nonneg [ExistsAddOfLE R] [PosMulMono R] [AddLeftMono R]
     (a : R) : 0 ≤ a * a := by simpa only [sq] using sq_nonneg a
 
+instance (priority := 100) [ExistsAddOfLE R] [PosMulMono R] [AddLeftMono R] : ZeroLEOneClass R :=
+  ⟨by simpa only [one_mul] using mul_self_nonneg (R := R) 1⟩
```
Comment (themathqueen) [inline Mathlib/Algebra/Order/Ring/Unbundled/Basic.lean]:
```suggestion
instance (priority := 100) [ExistsAddOfLE R] [PosMulMono R] [AddLeftMono R] : ZeroLEOneClass R where
  zero_le_one := by simpa only [one_mul] using mul_self_nonneg (1 : R)
```

**Comment by mortarsanjaya** [comment]
`sum_sq_le_sum_mul_sum_of_sq_eq_mul` can also be generalized as a result; I'll do it in the next PR.

**Review by themathqueen — APPROVED** [review]
I'm not entirely sure about the instance priority (should it be 100? 200? no priority?). Otherwise looks good. Thanks!

maintainer merge?

**Comment by riccardobrasca** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/104bbb1c302e02a36d5665ad24d60f7e419a26e8?reference=c3e588b46893e31f2676edae4cdcc033472eb213) for 104bbb1c302e02a36d5665ad24d60f7e419a26e8 against c3e588b46893e31f2676edae4cdcc033472eb213 are in. No significant results found. @riccardobrasca

> [!WARNING]
> These warnings may indicate that the benchmark results are not directly comparable, for example due to changes in the runner configuration or hardware.
>
> - Runner for run main has different system configurations between commits.

- ✅ `build//instructions`: **-42.6G** (**-0.02%**)

**Small changes (1✅, 1🟥)**

- 🟥 `build/module/Mathlib.Algebra.Field.Power//instructions`: **+215.2M** (**+4.43%**)
- ✅ `build/module/Mathlib.CategoryTheory.ConcreteCategory.Basic//instructions`: **-394.7M** (**-4.53%**)

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
